US07700774B2
Step (iv): Preparation of 2-ethyl-6,8-dimethyl-4-oxo-3,4-dihydro-2H-[1,7]naphthyridine-1,3-dicarboxylic acid 1-benzyl ester 3-methyl ester
This compound can be obtained by reacting a stirred suspension of 6,8-dimethyl-4-oxo-4H-[1,7]naphthyridine-1,3-dicarboxylic acid 1-benzyl ester 3-ethyl ester, prepared in step (iii) and CuI (copper iodide) in THF, with freshly prepared EtMgBr (ethyl magnesium bromide) at −78° C., followed by a typical workup.

reactant | 6,8-dimethyl-4-oxo-4H-[1,7]naphthyridine-1,3-dicarboxylic acid 1-benzyl ester 3-ethyl ester | C(C)OC(=O)C1=CN(C2=C(N=C(C=C2C1=O)C)C)C(=O)OCC1=CC=CC=C1 | C21H20N2O5
reactant | EtMgBr | C(C)[Mg]Br
solvent | THF | C1CCOC1 | C4H8O
catalyst | CuI | [Cu](I)I
product | 2-ethyl-6,8-dimethyl-4-oxo-3,4-dihydro-2H-[1,7]naphthyridine-1,3-dicarboxylic acid 1-benzyl ester 3-methyl ester | COC(=O)C1C(N(C2=C(N=C(C=C2C1=O)C)C)C(=O)OCC1=CC=CC=C1)CC | C22H24N2O5
